US08648066B2
To a mixture of N-ethyl-5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-benzimidazol-2-amine dihydrochloride (50 mg, 0.13 mmol) and 4-chloro-7-methoxy-2-methylquinazoline (27 mg, 0.13 mmol) in NMP (1 mL) was added diisopropylethylamine (91 uL, 0.52 mmol). The mixture was heated to 90° C. and stirred for 1 h. After cooling to rt, water was added, and the resulting aqueous mixture was extracted twice with 10% methanol in ethyl acetate. The organic extracts were combined, dried over magnesium sulfate, filtered, and then concentrated. The residue was purified by reverse-phase preparative HPLC to provide N-ethyl-6-{4-[2-methyl-7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-benzimidazol-2-amine as an acetate salt (34.2 mg, 0.063 mmol, 49% yield). 1H NMR (400 MHz, DMSO-d6) δ 11.91 (br s, 1H), 10.83 (br s, 1H), 7.92 (d, 1H), 7.58 (d, 1H), 7.43 (dd, 1H), 7.35 (s, 1H), 7.20-7.10 (m, 3H), 7.05-6.97 (m, 2H), 6.61 (br s, 1H), 4.99 (s, 2H), 4.44-4.38 (m, 2H), 4.18-4.11 (m, 2H), 3.33-3.25 (m, 2H), 2.44 (s, 3H), 1.91 (s, 4H), 1.19 (t, 3H); MS (EI) for C28H28N6O2: 481 (MH+).

reactant | N-ethyl-5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-benzimidazol-2-amine dihydrochloride | 0.13 mmol, 50 mg | Cl.Cl.C(C)NC1=NC2=C(N1)C=CC(=C2)C=2C=CC1=C(CNCCO1)C2
reactant | 4-chloro-7-methoxy-2-methylquinazoline | 0.13 mmol, 27 mg | ClC1=NC(=NC2=CC(=CC=C12)OC)C | C10H9ClN2O
reactant | diisopropylethylamine | 0.52 mmol, 91 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | N-ethyl-6-{4-[2-methyl-7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-benzimidazol-2-amine | C(C)NC1=NC2=C(N1)C=C(C=C2)C=2C=CC1=C(CN(CCO1)C1=NC(=NC3=CC(=CC=C13)OC)C)C2 | C28H28N6O2
